Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[O:8][C:9]#[C:10][H:11],2.62476894289
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[O:8][H:9]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][H:9],-5.31301288851
[H:1].[O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.69080666508
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.849024538819999
[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.21015749598
[H:4].[O:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.22226082037
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2],6.08967341268
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][H:11].[C:3]([H:4])([H:5])[H:6],3.77393815137
[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1][C:2]=[O:3],1.4548355924399998
[H:1][C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[C:3]([H:4])([H:5])[O:6][H:7].[H:1][C:2],4.864834137240001
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.3896680979400005
[C:9]([H:10])([H:11])=[C:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12][H:13],-1.3941802982799998
[H:1][C:2][H:3].[O:4]=[C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.47158689817
[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.77334514992
[C:1]#[C:5][H:6].[C:2]([H:3])#[C:4][O:7][O:8][H:9]>>[C:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][O:8][H:9],-1.2982176221
[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:2][C:4]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:5][H:3],7.39274448411
[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.00328731134
[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-6.01209349291
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:11]([H:12])[H:13].[O:9][H:10],2.7709197604000004
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8],2.62275468102
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.08556865066
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-6.24213266955
[H:1][C:2]#[C:3][O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.07594626404
[C:1]#[C:2][O:3][C:4].[C:5]([H:6])[O:7][H:8]>>[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8],-3.15047542994
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.56419871064
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7],1.50071863341
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],-1.89412433124
[C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]>>[O:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.0259711099
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-3.98518005393
